US07842685B2
A mixture of ethyl 2-(2,6-dichloropyridin-3-ylamino)-2-thioxoacetate (49.11 g, 175.9 mmol) and cesium carbonate (57.32 g, 175.9 mmol) in THF (350 mL) was heated at 50° C. for 6 h. The reaction suspension was then diluted with water (700 mL) and THF was removed in vacuo at 23° C. The resulting suspension was cooled to 0° C., and the precipitated solid was collected via vacuum filtration, washed with water, and dried in vacuo to provide ethyl 5-chlorothiazolo[5,4-b]pyridine-2-carboxylate as a yellow-orange solid. MS (ESI) m/z: Calculated: 242.0; Observed: 243.0 (M++1).

reactant | ethyl 2-(2,6-dichloropyridin-3-ylamino)-2-thioxoacetate | 175.9 mmol, 49.11 g | ClC1=NC(=CC=C1NC(C(=O)OCC)=S)Cl | C9H8Cl2N2O2S
reactant | cesium carbonate | 175.9 mmol, 57.32 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | water | 700 mL | O | H2O
product | ethyl 5-chlorothiazolo[5,4-b]pyridine-2-carboxylate | ClC1=CC=C2C(=N1)SC(=N2)C(=O)OCC | C9H7ClN2O2S
